Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___
 
___ Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a ___ man with a history of ESRD on dialysis, CHF (no 
recent echo), HTN, afib on coumadin, NIDDM presenting with 
shortness of breath.  He was in his usual state of health until 
this morning, when his home health aid felt he was moving more 
slowly and appeared more dyspneic as he prepared to go to his 
dialysis session. He agrees that he felt short of breath but is 
not able to further characterize the sensation.  He has had this 
many times before, often on "very humid days."  He says it 
resolves when it "gets less humid" or when he receives 
supplemental O2 from EMS.  He feels this episode is conistent 
with prior episodes.  He denies associated chest pain, chest 
pressure, right arm or jaw pain, palpitations, cough, 
hemoptysis, pleurisy, lightheadedness, dizziness, vision 
changes, extremity tingling, calf pain/redness/swelling.  He has 
not had worsening dyspnea with exertion recently, baseline ___ 
blocks.  He denies recent illness or sick contacts.  ROS 
otherwise negative as below.
 
In the ED, initial vital signs were 97.2 90 110/67 20 97% RA.  
Labs were remarkable for normal WBC, hct 29.8 (baseline ___, 
plt 116 (baseline 150-190), K 5.5, troponin 0.09 (baseline 
0.09), INR 1.8, BUN/Cr 56/7.5 (baseline Cr ___, BNP 48,000 
with unknown baseline. ABG was 7.36/49/56.  CXR showed no 
significant interval change from ___.  Patient received no 
documented medications or fluids in the ED.  He was sent for 
dialysis prior to admission.

On the floor, vital signs were 97.8 85 143/92 20 99% 1L.  
Patient was resting comfortably in bed, denying dyspnea with no 
other subjective complaints.
 
Past Medical History:
ESRD on dialysis since ___, LUE AVF
NIDDM
Afib on coumadin
HTN
CHF 
Gout
PVD
Hypothyrodism
Cricopharyngeal dysphagia ___ neck fracture
Sleep apnea not on home CPAP
 
Social History:
___
Family History:
Numerous with hypertension.
 
Physical Exam:
Vitals: 97.8 85 20 99% 1L NC
General: Elderly man resting comfortably in dialysis bed, 
sleeping, easily arousable, drowsy during encounter, oriented to 
person, ___, and full date. Pleasant, cooperative with exam. 
HEENT: NCAT, anicteric sclera, MMM
Neck: JVP at level of clavicle without hepatojugular reflux
CV: Irregularly irregular, S1+S2, NMRG
Lungs: Coarse breath sounds diffusely
Abdomen: SNTND, normoactive bowel sounds, no organomegaly
GU: deferred
Ext: WWP, no edema.  Left heel ulcer with granulomatous tissue, 
wrap CDI
Neuro: Dysarthric though this is baseline per OMR and patient. 
CN II-XII grossly intact.  Distal extremity strength ___. 
Sensation to light touch grossly intact.
Skin: As above.  No other obvious rashes or lesions.

Discharge Exam:
General: Elderly man sleeping comfortably in bed, easily 
arousable, oriented to person, ___, and full date. Pleasant, 
cooperative with exam. 
HEENT: NCAT, anicteric sclera, MMM
Neck: JVP at level of clavicle
CV: Irregularly irregular, S1+S2, NMRG
Lungs: CTABL, no w/r/r
Abdomen: SNTND, normoactive bowel sounds, no organomegaly
GU: deferred
Ext: WWP, no edema.  Left heel wrap CDI
Neuro: Stable dysarthria.  CN II-XII grossly intact.  MAE.
Skin: As above.  No other obvious rashes or lesions.
 
 
Pertinent Results:
___ 12:35PM BLOOD WBC-7.6 RBC-3.15* Hgb-9.7* Hct-29.8* 
MCV-95 MCH-30.8 MCHC-32.6 RDW-15.5 Plt ___
___ 12:35PM BLOOD Neuts-73.0* Lymphs-13.8* Monos-7.5 
Eos-4.7* Baso-1.1
___ 01:07PM BLOOD ___ PTT-41.7* ___
___ 12:35PM BLOOD Glucose-100 UreaN-56* Creat-7.5*# Na-138 
K-8.7* Cl-101 HCO3-26 AnGap-20
___ 02:16AM BLOOD CK(CPK)-23*
___ 12:35PM BLOOD CK-MB-2 ___
___ 12:35PM BLOOD cTropnT-0.09*
___ 02:16AM BLOOD CK-MB-2 cTropnT-0.09*
___ 12:35PM BLOOD Calcium-9.4 Phos-3.9 Mg-2.6
___ 02:25PM BLOOD Vanco-11.2
___ 01:30PM BLOOD K-5.5*
___ 12:44PM BLOOD Lactate-1.3

CXR: No significant interval change.  Moderate right and 
possible small left pleural effusion with mild pulmonary edema.  
Please note right basilar infection cannot be excluded.
 
Brief Hospital Course:
___ man with history of CHF, ESRD on dialysis, HTN, afib on 
coumadin, NIDDM and recent osteomyelitis on vanc+cetaz, 
presenting with shortness of breath.  ___ hospital 
course.

Acute Issues
========
#DYSPNEA: Pt was reporting resolution of dyspnea on encounter 
mid-dialysis.  He was initially maintained on low levels of 
supplemental oxygen via nasal cannula, though this was rapidly 
weaned after dialysis.  He maintained excellent oxygen 
saturations on room air and denied dyspnea through the remainer 
of his admission.

#CHF: Patient presented with elevated BNP on admission though 
baseline unknown. He received 1 session of hemodialysis prior to 
arrival on the floor with good effect on his dyspnea as above.  
He appeared euvolemic for the remainder of his admission.
 
#HEARING LOSS: Patient incidentally noted hearing loss during 
this admission and found to have significant cerumen impaction 
in both ears.  He was discharged with a prescription for 
carbamide peroxide drops to instill for 1 wk prior to next PCP 
visit, at which point cerumen should be manually removed.

Chronic Issues
=========
#ESRD: Patient received scheduled ___ dialysis session 
in-house.  He was continued on his pre-admission renal regimen.

#AFIB: Patient was continued on his pre-admission coumadin, with 
recommendation to titrate following discharge for mildly 
subtherapeutic INR.  He was continued on his pre-admission 
metoprolol.  His heart rate was monitored on telemetry, which 
showed no significant changes in his rhythm.

#PRESUMED OSTEOMYELITIS: Patient received his scheduled 
vancomycin dose during dialysis and his ceftazidime on the 
floor.

#ANEMIA: Patient's hematocrit was at baseline with so clinical 
signs of active bleeding.  No further intervention.

#HTN: Patient was continued on his pre-admission metoprolol and 
lasix regimen.

#GOUT: Patient was continued on pre-admission allopurinol.

Transitional Issues
============
- Please titrate coumadin to achieve INR 2.0-3.0
- Please attempt manual cerumen disimpaction at next office 
visit
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. Cinacalcet 30 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
11. Sucralfate 1 gm PO TID 
12. Warfarin 2 mg PO QOD 
13. Warfarin 3 mg PO QOD 
14. Docusate Sodium 100 mg PO BID 
15. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
16. CefTAZidime 1 g IV POST HD 
17. Vancomycin 1000 mg IV HD PROTOCOL 
18. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Allopurinol ___ mg PO DAILY 
3. CefTAZidime 1 g IV POST HD 
4. Cinacalcet 30 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Finasteride 5 mg PO DAILY 
7. Furosemide 80 mg PO 4X/WEEK (___) 
8. Levothyroxine Sodium 100 mcg PO DAILY 
9. Metoprolol Succinate XL 150 mg PO DAILY 
10. Nephrocaps 1 CAP PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. Sucralfate 1 gm PO TID 
14. Warfarin 2 mg PO QOD 
15. Warfarin 3 mg PO QOD 
16. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
17. Vancomycin 1000 mg IV HD PROTOCOL 
18. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q24H 
19. Carbamide Peroxide 6.5% ___ DROP AD DAILY Duration: 4 Days 
RX *carbamide peroxide 6.5 % ___ Drops AD Daily Disp #*1 Bottle 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
# Dyspnea, related to hypervolemia

Secondary Diagnoses:
# Chronic renal failure
# Congestive heart failure
# Atrial fibrillation
# Osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at ___ 
___.  You were admitted because of shortness of 
breath.  This resolved after dialysis.  You did very well 
overnight and were discharged without further treatment.

Please be sure to attend all follow-up appointments.  Also, 
please weigh yourself every morning, and call your doctor if 
your weight goes up more than 3 lbs.

Thank you for allowing us to be part of your care.
 
Followup Instructions:
___